* C:\users\madi\Documents\LTspice\LT1117lista3.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 WY WE LT1117
R1 WY ADJ 110
V1 WE 0 15
I1 WY 0 900m
R2 ADJ 0 {R+0.1}
R3 N001 ADJ {1k-R+0.1}
.step param R 0 1k 10
.op
.lib LT1117.lib
.backanno
.end
